US05403842
E-8-(2-carboxyvinyl)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (Intermediate III)
A mixture of 7.92 g of 8-formyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (prepared as described in Uneyama, K. et al., Bull. Chem. Soc. Jap. 58: 2361, 1985) 3.75 g of malonic acid and 0.46 ml of piperidine in 15 ml of anhydrous pyridine was stirred at 100° C. for 3 hours. After cooling to 20°-25° C. the reaction mixture was poured into a mixture of 90 g of crushed ice and 33 ml of hydrochloric acid (d=1.18). The resultant precipitate was collected by suction filtration, washed with water and crystallized twice from 95% ethanol to give 5.5 g of the title compound, m.p. 226°-229° C.

reactant | 8-formyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 7.92 g | C(=O)C1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C17H12O3
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.46 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 33 ml | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | E-8-(2-carboxyvinyl)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 5.5 g | C(=O)(O)/C=C/C1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C19H14O4
